US09085583B2
Step 2: (tert-butyl 1-(3-methoxybutan-2-yl)-2-methyl-1H-indole-3-carboxylate)
To a suspension of tert-butyl 1-(3-hydroxybutan-2-yl)-2-methyl-1H-indole-3-carboxylate (500 mg, 1.65 mmol) in THF (8 mL) was added sodium hydride (330 mg, 8.25 mmol) at 30° C. under N2. The reaction was stirred for 20 min. Then iodomethane (0.4 mL) was added and the reaction was stirred at 60° C. for 3 hrs. Then the mixture was diluted with ethyl acetate, washed with water and saturated aqueous NaHCO3. The crude product was purified by column chromatography on silica gel eluted with petroleum ether:ethyl acetate=80:1 to afford the title compound as a yellow solid which was used directly (400 mg, 76.8%).

reactant | tert-butyl 1-(3-hydroxybutan-2-yl)-2-methyl-1H-indole-3-carboxylate | 1.65 mmol, 500 mg | OC(C(C)N1C(=C(C2=CC=CC=C12)C(=O)OC(C)(C)C)C)C | C18H25NO3
reactant | sodium hydride | 8.25 mmol, 330 mg | [H-].[Na+]
reactant | iodomethane | 0.4 mL | IC | CH3I
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 1-(3-methoxybutan-2-yl)-2-methyl-1H-indole-3-carboxylate | COC(C(C)N1C(=C(C2=CC=CC=C12)C(=O)OC(C)(C)C)C)C | C19H27NO3
